US09255217B2
N-[[4-[(E)-1-methylpropylideneamino]oxy-6-[(Z)-1-methylpropylideneamino]oxy-1,3,5-triazin-2-yl]oxy]butan-2-imine
To a cold (0° C.) solution of ethylmethyl-ketoxime (4.18 g, 0.048 mol) in dry pyridine (16 ml) is added cyanuric chloride (2.21 g, 0.012 mol). An exothermic reaction occurs and the temperature rises to 16° C. The solution is then stirred 12 h at room temperature and then poured into 150 ml of ice-cold water. The resulting emulsion is extracted with dichloromethane (3×30 ml), the extracts are dried over MgSO4 and the solvent is evaporated. The residue is chromatographed (silica gel, CH2Cl2—C2H5O(CO)CH3 8:3) to afford 3.72 g of the title compound as a colorless oil which slowly solidifies on standing, mp. 51-56° C.

reactant | ethylmethyl-ketoxime | 0.048 mol, 4.18 g | C(C)C(=NO)C | C4H9NO
reactant | cyanuric chloride | 0.012 mol, 2.21 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | pyridine | 16 ml | N1=CC=CC=C1 | C5H5N
product | N-[[4-[(E)-1-methylpropylideneamino]oxy-6-[(Z)-1-methylpropylideneamino]oxy-1,3,5-triazin-2-yl]oxy]butan-2-imine | 3.72 g | C/C(/CC)=N\OC1=NC(=NC(=N1)O\N=C(/CC)\C)ON=C(C)CC | C15H24N6O3
